US07524823B2
B] Preparation of 6-(3-bromopropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione
To a solution of 0.813 g (3.94 mmol) 6-(3-hydroxypropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione in 10 ml acetonitrile were added dropwise 0.854 g (3.15 mmol) PBr3 and the mixture was heated to reflux for 2 hours. The mixture was concentrated in vacuo and 6 ml of cold water were added to the residue. The precipitate was filtered, washed with cold water and dried in vacuo to get 0.71 g (71%) of the desired product as a light yellow powder. 1H-NMR (DMSO): 2.10-2.23 (m, 2H), 3.52-3.63 (m, 2H), 3.70-3.82 (m, 2H), 7.72-7.81 (m, 1H), 8.22-8.33 (m, 1H), 8.91-9.00 (m, 1H).

reactant | 6-(3-hydroxypropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione | 3.94 mmol, 0.813 g | OCCCN1C(C2=NC=CC=C2C1=O)=O | C10H10N2O3
reactant | PBr3 | 3.15 mmol, 0.854 g | P(Br)(Br)Br | Br3P
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 6-(3-bromopropyl)-5H-pyrrolo[3,4-b]pyridine-5,7(6H)-dione | 0.71 g, 71% | BrCCCN1C(C2=NC=CC=C2C1=O)=O | C10H9BrN2O2
